US07423158B2
A mixture of 3-{[4-(difluoromethoxy)phenyl]ethynyl}benzaldehyde (3.69 g, 13.57 mmol), 4-methylbenzenesulfonohydrazide (2.9 g, 15.6 mmol) and EtOH (11 mL) was refluxed for 30 minutes. cooled to room temperature, poured into water and extracted with ethyl ether. The organic extracts were combined dried over MgSO4 and concentrated in vacuo. The resultant residue was purified on silica gel (Biotage) using hexanes/EtOAc (2/1) as the eluting solvents to give N′-[(1E)-(3-{[4-(difluoromethoxy)phenyl]ethynyl}phenyl)methylene]-4-methylbenzenesulfonohydrazide as a tan solid (5.4 g, 90% yield), MS m/e (M+H)+ 441; 1H NMR (400 MHz, DMSO-d6) 2.32 (s, 3H), 7.2 (d, J=8.66 Hz, 2H), 7.3-7.6 (m, 8H), 7.72 (d, J=8.3 Hz, 2H), 7.88 (s, 1H), 11.54 (s, 1H).

reactant | 3-{[4-(difluoromethoxy)phenyl]ethynyl}benzaldehyde | 13.57 mmol, 3.69 g | FC(OC1=CC=C(C=C1)C#CC=1C=C(C=O)C=CC1)F | C16H10F2O2
reactant | 4-methylbenzenesulfonohydrazide | 15.6 mmol, 2.9 g | CC1=CC=C(C=C1)S(=O)(=O)NN | C7H10N2O2S
reactant | EtOH | 11 mL | CCO | C2H6O
solvent | water | O | H2O
product | N′-[(1E)-(3-{[4-(difluoromethoxy)phenyl]ethynyl}phenyl)methylene]-4-methylbenzenesulfonohydrazide | 5.4 g, 90% yield | FC(OC1=CC=C(C=C1)C#CC=1C=C(C=CC1)\C=N\NS(=O)(=O)C1=CC=C(C=C1)C)F | C23H18F2N2O3S
